US08252833B2
Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate
4,9-Bis(ethyloxy)naphtho[2,3-c]furan-1,3-dione (0.100 g, 0.35 mmol) in acetic acid (5 ml) was treated with DMAP (0.013 g, 0.11 mmol) then ethyl (4-amino-3-fluorophenyl)acetate (0.138 g, 0.70 mmol) and heated to reflux (120° C.) under argon overnight. The reaction mixture was cooled to room temperature and the solvent evaporated to afford a brown/orange oil which was diluted in DCM and washed with saturated NaHCO3 and then 2N HCl. The organics were dried over MgSO4 and evaporated to a brown oil which was purified by chromatography on silica gel eluting with ethyl acetate (0-20%) in hexane over 30 minutes. The evaporated fractions were triturated with hexane to give the title compound as a solid (0.110 g, 0.24 mmol, 69%).

reactant | 4,9-Bis(ethyloxy)naphtho[2,3-c]furan-1,3-dione | 0.35 mmol, 0.100 g | C(C)OC1=C2C=CC=CC2=C(C=2C(OC(C21)=O)=O)OCC | C16H14O5
reactant | ethyl (4-amino-3-fluorophenyl)acetate | 0.70 mmol, 0.138 g | NC1=C(C=C(C=C1)CC(=O)OCC)F | C10H12FNO2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | DMAP | 0.11 mmol, 0.013 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 0.24 mmol, 0.110 g, 69% | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H24FNO6
